US05866592
4-Amidinobenzamide hydrochloride (10 g) was dissolved in a mixed solution of 6N HCl (300 ml) and acetic acid (50 ml) and the solution was refluxed at 110° C. for 6 hours. The reaction solution was cooled with ice and the resulting precipitate was filtered to yield a crystal of 4-amidinobenzoic acid hydrochloride (10.4 g).

reactant | 4-Amidinobenzamide hydrochloride | 10 g | Cl.C(N)(=N)C1=CC=C(C(=O)N)C=C1
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | HCl | 6N, 300 ml | Cl | ClH
product | 4-amidinobenzoic acid hydrochloride | 10.4 g | Cl.C(N)(=N)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C8H8N2O2.ClH/c9-7(10)5-1-3-6(4-2-5)8(11)12;/h1-4H,(H3,9,10)(H,11,12);1H
